### PR TITLE
[Merged by Bors] - feat(Data/Finset/Image): add `subset_univ_image_iff`

### PR DESCRIPTION
**Pull request by ShreckYe**
This is a special case of `subset_image_iff`, which corresponds to `Set.subset_range_iff_exists_image_eq` for `Set`.

### CODE REVIEW

File: Mathlib/Data/Finset/Image.lean [hunk 1]
```diff
@@ -636,6 +637,18 @@ theorem subset_image_iff [DecidableEq β] {s : Finset α} {t : Finset β} {f : 
...
+A special case of `subset_image_iff`,
+which corresponds to `Set.subset_range_iff_exists_image_eq` for `Set`.
+-/
+theorem subset_univ_image_iff [Fintype α] [DecidableEq β] {t : Finset β} {f : α → β} :
+    t ⊆ univ.image f ↔ ∃ s' : Finset α, s'.image f = t :=
+  have ⟨mp, mpr⟩ := subset_image_iff (s := univ)
+  ⟨fun t_subset =>
+    have ⟨s', _, s'_image_eq_t⟩ := mp t_subset
+    ⟨s', s'_image_eq_t⟩,
+    fun ⟨s', s'_image_eq_t⟩ => mpr ⟨s', subset_univ s', s'_image_eq_t⟩⟩
```
Comment (themathqueen) [inline Mathlib/Data/Finset/Image.lean]:
```suggestion
  fun ⟨s', s'_image_eq_t⟩ => mpr ⟨s', subset_univ s', s'_image_eq_t⟩⟩
```

File: Mathlib/Data/Finset/Image.lean [hunk 2]
```diff
@@ -636,6 +637,18 @@ theorem subset_image_iff [DecidableEq β] {s : Finset α} {t : Finset β} {f : 
...
+which corresponds to `Set.subset_range_iff_exists_image_eq` for `Set`.
+-/
+theorem subset_univ_image_iff [Fintype α] [DecidableEq β] {t : Finset β} {f : α → β} :
+    t ⊆ univ.image f ↔ ∃ s' : Finset α, s'.image f = t :=
+  have ⟨mp, mpr⟩ := subset_image_iff (s := univ)
+  ⟨fun t_subset =>
+    have ⟨s', _, s'_image_eq_t⟩ := mp t_subset
+    ⟨s', s'_image_eq_t⟩,
+  fun ⟨s', s'_image_eq_t⟩ => mpr ⟨s', subset_univ s', s'_image_eq_t⟩⟩
+
```
Comment (artie2000) [inline Mathlib/Data/Finset/Image.lean]:
```suggestion
    t ⊆ univ.image f ↔ ∃ s' : Finset α, s'.image f = t := by simp [subset_image_iff]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
